US08754073B2
49.1 (S)-5-dibenzylamino-1-propylpiperidin-2-one
0.51 g (S)-5-dibenzylaminopiperidin-2-one (see 5.1) are placed in 5 ml dimethylformamide. While cooling with the ice bath 120 mg sodium hydride (60% in mineral oil) are added. The reaction mixture is then stirred for 30 minutes at ambient temperature. While cooling with the ice bath 0.289 ml 1-iodopropane are added. The reaction mixture is then stirred overnight at ambient temperature, then combined with a saturated NaCl solution. The product is extracted with ethyl acetate. 0.569 g product are obtained as an oil.

reactant | (S)-5-dibenzylaminopiperidin-2-one | 0.51 g | C(C1=CC=CC=C1)N([C@H]1CCC(NC1)=O)CC1=CC=CC=C1 | C19H22N2O
reactant | sodium hydride | 120 mg | [H-].[Na+]
reactant | 1-iodopropane | 0.289 ml | ICCC | C3H7I
reactant | NaCl | [Na+].[Cl-]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | (S)-5-dibenzylamino-1-propylpiperidin-2-one | 0.569 g | C(C1=CC=CC=C1)N([C@H]1CCC(N(C1)CCC)=O)CC1=CC=CC=C1 | C22H28N2O
